US07030139B2
51BE: 1-(cyclopropylmethyl)-2-[1-(4-ethoxyphenyl)ethyl]-N-methyl-1H-benzimidazol-5-amine
A mixture of N-[1-(cyclopropylmethyl)-2-[1-(4-ethoxyphenyl)ethyl]-1H-benzimidazol-5-yl]-N-methyl acetamide (2.43 g, 5.64 mmol) and 40% KOH (50 ml) in EtOH was heated for 20 h at reflux. After being cooled down, the mixture was concentrated to a small volume (50 mL) and diluted with H2O (50 mL) which was extracted with dichloromethane (4×50 mL). The combined organic phases were dried with Na2SO4. After filtration and evaporation of the solvent, the residue was purified by MPLC using EtOAc on silica gel to give 1.93 g (99%) of the title compound as an off-white solid. MS (ESI) (M+H)+=350.37.

reactant | N-[1-(cyclopropylmethyl)-2-[1-(4-ethoxyphenyl)ethyl]-1H-benzimidazol-5-yl]-N-methyl acetamide | 5.64 mmol, 2.43 g | C1(CC1)CN1C(=NC2=C1C=CC(=C2)N(C(C)=O)C)C(C)C2=CC=C(C=C2)OCC | C24H29N3O2
reactant | KOH | 50 ml | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
product | 1-(cyclopropylmethyl)-2-[1-(4-ethoxyphenyl)ethyl]-N-methyl-1H-benzimidazol-5-amine | 1.93 g, 99% | C1(CC1)CN1C(=NC2=C1C=CC(=C2)NC)C(C)C2=CC=C(C=C2)OCC | C22H27N3O
